US08476261B2
c) 9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carboxylic Acid
To a solution of ethyl 9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carboxylate (1.3 g, 4 mmol) in EtOH/water (50:50 v/v, 55 mL) was added K2CO3 powder (1.65 g, 12 mmol) and the mixture was heated under reflux for 2 h. The solvent was removed to dryness. The remaining solid was acidified to pH6 by using 2N acetic acid. A precipitate formed and was collected by filtration, washed with water and then dried to give the title compound (0.656 g, 2.24 mmol as a light yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ 1.29 (2H, t), 1.8 (2H, t), 4.56 (2H, s), 7.84 (1H, m), 8.51 (1H, s), 14.3 (1H, b). MS (EP) m/z: 294 (M++1). (Calcd for C14H9F2NO4, 293.22)

reactant | ethyl 9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carboxylate | 4 mmol, 1.3 g | FC=1C=C2C(C(=CN3C2=C(C1F)OCC31CC1)C(=O)OCC)=O | C16H13F2NO4
reactant | K2CO3 | 12 mmol, 1.65 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH water | 55 mL | CCO.O
product | 9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopropane]-6-carboxylic Acid | FC=1C=C2C(C(=CN3C2=C(C1F)OCC31CC1)C(=O)O)=O | C14H9F2NO4
